US04610954
(2) Synthesis of Compound I-1, [1-(4-carboxyphenyl)-2,3-dihydroimidazole-2-thione]
400 ml of 30% sulfuric acid was added to 80 g of N-(4-carboethoxyphenyl)-N'-(2,2-diethoxyethyl)thiourea, and the mixture was refluxed for 1 hour using an oil bath. The reaction mixture was cooled to room temperature, then 600 ml of water was added thereto, followed by cooling in an ice bath. Crystals precipitated were collected by filtration, then washed successively with 200 ml of water, 100 ml of isopropyl alcohol, and 100 ml of hexane. Yield: 48 g (92.8 mol%).

reactant | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-(4-carboethoxyphenyl)-N'-(2,2-diethoxyethyl)thiourea | 80 g | C(=O)(OCC)C1=CC=C(C=C1)NC(=S)NCC(OCC)OCC | C16H24N2O4S
solvent | water | 600 ml | O | H2O
product | 1-(4-carboxyphenyl)-2,3-dihydroimidazole-2-thione | C(=O)(O)C1=CC=C(C=C1)N1C(NC=C1)=S | C10H8N2O2S
